US09315458B2
N) rac-4-chloro-2-(trans-2-hydroxycyclohexyl)-5-methoxy-6-(4-(1H-pyrazol-1-yl)benzyl)isoindolin-1-one
To a solution of rac-4-chloro-3-hydroxy-2-(trans-2-hydroxycyclohexyl)-5-methoxy-6-[4-(1H-pyrazol-1-yl)benzyl]-2,3-dihydro-1H-isoindol-1-one (0.07 g) in dichloromethane (2.00 mL) was added trifluoroacetic acid (0.50 mL) under ice-cooling, and the mixture was stirred for 15 min. Then, triethylsilane (0.40 mL) was added thereto, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate (×2). The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by prep-HPLC, then lyophilized to give the title compound (0.02 g).

reactant | rac-4-chloro-3-hydroxy-2-(trans-2-hydroxycyclohexyl)-5-methoxy-6-[4-(1H-pyrazol-1-yl)benzyl]-2,3-dihydro-1H-isoindol-1-one | 0.07 g | ClC1=C2C(N(C(C2=CC(=C1OC)CC1=CC=C(C=C1)N1N=CC=C1)=O)[C@H]1[C@@H](CCCC1)O)O | C25H26ClN3O4
reactant | trifluoroacetic acid | 0.50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.40 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2.00 mL | ClCCl | CH2Cl2
product | rac-4-chloro-2-(trans-2-hydroxycyclohexyl)-5-methoxy-6-(4-(1H-pyrazol-1-yl)benzyl)isoindolin-1-one | 0.02 g | ClC1=C2CN(C(C2=CC(=C1OC)CC1=CC=C(C=C1)N1N=CC=C1)=O)[C@H]1[C@@H](CCCC1)O | C25H26ClN3O3
